US05464796
h) Ethyl 5,8-dichloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate
19.1 g (0.05 mol) of ethyl 2-(2,5-dichloro-3,4,6-trifluorobenzoyl)-3-cyclopropylamino-acrylate are heated at 160°-170° C. together with 4.2 g (0.1 mol) of sodium fluoride in 100 ml of N-methyl-2-pyrrolidone for 5 hours. After cooling, the mixture is poured onto 200 ml of water. The solid which has precipitated is filtered off with suction, washed with water and dried at 80° C. in a drying cabinet.

reactant | ethyl 2-(2,5-dichloro-3,4,6-trifluorobenzoyl)-3-cyclopropylamino-acrylate | 0.05 mol, 19.1 g | ClC1=C(C(=O)C(C(=O)OCC)=CNC2CC2)C(=C(C(=C1F)F)Cl)F | C15H12Cl2F3NO3
reactant | sodium fluoride | 0.1 mol, 4.2 g | [F-].[Na+]
reactant | water | 200 ml | O | H2O
solvent | N-methyl-2-pyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | Ethyl 5,8-dichloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | ClC1=C2C(C(=CN(C2=C(C(=C1F)F)Cl)C1CC1)C(=O)OCC)=O | C15H11Cl2F2NO3
